US04399147
(13E)-(5RS,6RS,9α,11α,15S)-5-Phenylseleno-6,9-epoxy-11,15-bis(tetrahydropyran-2-yloxy)prost-13-enoic acid methyl ester
To a solution of 3.3 g of (5Z,13E)-(9α,11α,15S)-9-hydroxy-11,15-bis(tetrahydropyran-2-yloxy)prosta-5,13-dienoic acid methyl ester in 60 ml of tetrahydrofuran was added 610 mg of calcium carbonate at -20° C., and then 6 ml of a solution of benzeneselenenyl bromide in tetrahydrofuran (prepared by adding 0.19 ml of bromine to a solution of 1.25 g of diphenyldiselenide in 6 ml of tetrahydrofuran and stirring the mixture at room temperature for one hour) was added and the reaction mixture was stirred at the same temperature for 10 minutes and further stirred for one hour at 0° C., and then an aqueous solution of ammonium chloride was added. The reaction mixture was extracted with ethyl acetate. The extract was washed with water and an aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of cyclohexane and ethyl acetate (7:1) as eluent to give 1.62 g of the title compound having the same physical characteristics as hereinbefore described.

reactant | (5Z,13E)-(9α,11α,15S)-9-hydroxy-11,15-bis(tetrahydropyran-2-yloxy)prosta-5,13-dienoic acid methyl ester | 3.3 g | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](CCCCC)OC1OCCCC1)OC1OCCCC1)O)=O | C31H52O7
reactant | calcium carbonate | 610 mg | C([O-])([O-])=O.[Ca+2]
reactant | benzeneselenenyl bromide | C1(=CC=CC=C1)[Se]Br | C6H5BrSe
reactant | bromine | 0.19 ml | BrBr | Br2
reactant | diphenyldiselenide | 1.25 g | C1(=CC=CC=C1)[SeH-](=[Se])C1=CC=CC=C1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | (13E)-(5RS,6RS,9α,11α,15S)-5-Phenylseleno-6,9-epoxy-11,15-bis(tetrahydropyran-2-yloxy)prost-13-enoic acid methyl ester | 1.62 g | COC(CCCC(C1C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](CCCCC)OC2OCCCC2)OC2OCCCC2)O1)[Se]C1=CC=CC=C1)=O | C37H56O7Se
